US04702918
Sodium azulenesulfonate (12 g), 186 g of hydroxypropylcellulose-M and 282 g of stearic acid were granulated by the same way as in Example 5. Each 160 mg of it was filled in a capsule No. 3. The capsules were placed in a fluidized bed granulator-drier, fluidized by heating with air (intake temperature: 80° C.) for 15 minutes, the heater was turned off and allowed to cool with air of the room temperature to give capsules each containing 4 mg of azulenesulfonic acid.

reactant | Sodium azulenesulfonate | 12 g | C1(=CC=C2C=CC=CC=C12)S(=O)(=O)[O-].[Na+]
reactant | stearic acid | 282 g | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
product | azulenesulfonic acid | 4 mg | C1(=CC=C2C=CC=CC=C12)S(=O)(=O)O | C10H8O3S
